Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
ICH
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Mr ___ is a  ___ man with previous stroke on
Coumadin who was transfer from OSH after LOC and found to have
extensive intracranial bleeding. His wife reported that he
suddenly  became confused while sitting at the table. He became
unresponsive, turned his head to the right side, and had whole 
body
stiffness. This event happened around noontime.  The wife called
the ___ who arrived to find the patient unresponsive with
decorticate posturing of the left arm. Patient had vomiting 
which
complicated to intubate and the EMS team brought him to the ___ emergency department where a rapid sequence intubation was 
done with etomidate and succinylcholine. A CT scan showed a 
large intracranial
hemorrhage with blood in the ventricle and shift and herniation.
Patient was loaded with 1 g of fosphenytoin as well as 80 g of
mannitol as well as fentanyl and propofol.

The patient also received 10 mg of vitamin K and then 
transferred
here from ___. En route in the helicopter, the
patient received propofol.

ROS:  
Patient was in his usual state of health and no other symptoms
were mentioned by the family members. He was not compliant with
his home medications.  
 

 
Past Medical History:
PMH: Details were not given, but patient had a large left MCA
stroke resulting in right sided hemiparesis and aphasia.
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Limitted patient in propofol, intubated 
Vitals: 
Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.  
Neuro exam: small reactive pupils. Eyes in the midline. ___ 
4
(again limitted due to the medication). Decerebration reaction 
to
pain stim.

 
Pertinent Results:
___ 03:30PM   ___ PTT-22.2 ___
___ 03:30PM   WBC-18.9* RBC-5.32 HGB-15.3 HCT-46.0 MCV-86 
MCH-28.8 MCHC-33.3 RDW-13.2
___ 03:30PM   WBC-18.9* RBC-5.32 HGB-15.3 HCT-46.0 MCV-86 
MCH-28.8 MCHC-33.3 RDW-13.2
___ 03:30PM   LIPASE-22
___ 03:30PM   UREA N-14 CREAT-0.9
___ 03:40PM   HGB-16.7 calcHCT-50
___ 03:40PM   GLUCOSE-154* LACTATE-3.0* NA+-138 K+-4.9 
CL--98* TCO2-25
___ 04:45PM   TYPE-ART RATES-/14 TIDAL VOL-500 PEEP-5 
O2-100 PO2-229* PCO2-48* PH-7.38 TOTAL CO2-29 BASE XS-2 
AADO2-439 REQ O2-75 -ASSIST/CON INTUBATED-INTUBATED

CT head ___
IMPRESSIONS: 
1. Large right intraparenchymal hemorrhage centered in the right 
basal 
ganglia, unchanged in size from the prior study, with new 
intraventricular 
extension. Stable 2 cm of subfalcine leftward herniation and 
mild uncal 
herniation. Configuration favors hypertension as likely 
etiology. 
2. Extensive edema and sulcal effacement of the entire right 
hemisphere. 
3. Marked encephalomalacia of the entire left cerebral 
hemisphere 

CT head ___
IMPRESSION: Overall increase in size of the large right 
parenchymal 
hemorrhage, now 7 x 5.9 cm, with increased leftward shift of 
midline 
structures, now 2.8 cm, and worsening uncal herniation with new 
compression 
and leftward deviation of the midbrain. Increased size of the 
occipital horn 
and atrium of the left lateral ventricle concerning for 
"trapping" of this 
ventricle. New left hemispheric subarachnoid and unchanged 
intraventricular 
hemorrhage. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of AF, HTN, 
hyperlipidemia, and s/p
an old left MCA infarct with residual aphasia and mild right 
sided weakness.  He was found confused, then suddenly collapsed 
per his wife earlier today.  He was taken to ___ 
___, where head CT showed an ICH. He was intubated, loaded 
with phosphenytoin & treated with vitamin K for presumed 
coagulopathy; then transferred to ___ for surgical management 
of his ICH.
.
Upon transfer from the outside hospital, the patient was 
initially evaluated by the neurosurgery service in regards to a 
possible right temporoparietal craniotomy.  In lengthy 
discussion with the neurosurgery service and neurology service, 
the family decided against surgical intervention as they did not 
want the patient to suffer.  
.
The neurology service was asked to see him urgently by 
Neurosurgery to assist with ICH management and to render our 
opinion regarding the futility of surgical intervention.  At 
time of examination, the patient had no spontaneous movement and 
did not respond to voice.  He had a mild gag reflex. Pupils were 
small ~ 1 to 1.5 mm but reactive.  Eyes were midline.  He had 
corneals bilaterally.  Doll's eye was not elicited.  He moved 
the right side to pain & nasal stimulation. He postures on the 
left in response to pain.  Toes were upgoing. Overall, his GCS 
was 4.  Head CT showed a large right parenchymal ICH with IVH 
and extension into the brainstem, midline shift of ~ 22mm, and 
ventricular dilatation in addition to an old left
temporo-parietal infarct. 
.
Overall, the cause of his ICH was difficult to ascertain.  It is 
likely hypertensive, but one cannot entirely rule out a 
secondary cause.  Regardless, his prognosis appeared grim. His 
ICH score was 4, indicating a 30-day mortality of ~ 97%.  
Multiple members of the neurology and neurosurgery service had 
lengthy discussions with multiple family members regarding his 
condition, expected prognosis, and treatment options.  His 
chances for any meaningful recovery, if he survives, are 
minimal.  While surgery could be life-saving, it is unlikely to 
improve his functional outcome. They decided on a DNR status, 
but wanted to
discuss the surgical option with Dr. ___ further.  They 
were initially inclined to proceed with surgery, but later 
reversed their decision.
.
The patient was admitted to the NSICU for medical management.  A 
repeat CT head several hours after arrival revealed worsening 
hemorrhage with midline shift and uncal herniation.  Social work 
consult was requested to help the family cope with the difficult 
situation and after further discussions, the patient was 
ultimately made CMO.  He was pronoucned dead at ___ at 6:20 
AM.
.

 

 
Medications on Admission:
coumadin, lisinopril & simvastatin.
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
intraparenchymal hemorrhage
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___